US09227933B2
(S)-3-[(R)-1-(2,3-Dichlorophenoxy)-2-ethylbutyl]pyrrolidine
(S)-3-((R)-2-Ethyl-1-hydroxybutyl)pyrrolidine-1-carboxylic acid t-butyl ester (28 mg, 0.1 mmol) was dissolved in DMF (380 μL, 4.9 mmol). 60% Sodium hydride in oil (0.4:0.6, sodium hydride:mineral oil, 18.6 mg, 310 μmol) was slowly added, and the resulting mixture was stirred at room temperature for 15 minutes. 1,2-Dichloro-3-fluorobenzene (23.8 μL, 206 μmol) was added and the mixture was stirred at 70° C. for 3 hours. The mixture was concentrated, treated with 1.25M HCl in EtOH (578 μL, 722 μmol), then stirred overnight at room temperature. The product was concentrated under vacuum, redissolved in 1:1AcOH:H2O, filtered, and purified by preparative HPLC to yield the title compound as a mono-TFA salt (5.3 mg, 97% purity). MS m/z: [M+H] calcd for C16H23Cl2NO, 316.12. found 316.3.

reactant | (S)-3-((R)-2-Ethyl-1-hydroxybutyl)pyrrolidine-1-carboxylic acid t-butyl ester | 0.1 mmol, 28 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](C(CC)CC)O | C15H29NO3
reactant | DMF | 4.9 mmol, 380 μL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | [H-].[Na+]
reactant | 1,2-Dichloro-3-fluorobenzene | 206 μmol, 23.8 μL | ClC1=C(C(=CC=C1)F)Cl | C6H3Cl2F
reactant | HCl | 1.25M | Cl | ClH
reactant | EtOH | 722 μmol, 578 μL | CCO | C2H6O
product | (S)-3-[(R)-1-(2,3-Dichlorophenoxy)-2-ethylbutyl]pyrrolidine | ClC1=C(O[C@H](C(CC)CC)[C@@H]2CNCC2)C=CC=C1Cl | C16H23Cl2NO
